US05192530
Copoly (Beta-styrenephosphonic Acid/Vinylphosphonic Acid)
A mixture of 10.68 g. (0.058M) of beta-styrenephosphonic acid, 6.0 ml. (8.4 g, 0.058M) of vinylphosphonyl dichloride, and 0.5 g. of AIBN is heated, with stirring, under an anhydrous nitrogen atmosphere intermittently for a few hours, then overnight at 80°-90° C. The material is transferred to a beaker with 60-70 ml. of water. A crystalline precipitate forms as the warm solution cools. The mixture is filtered, the aqueous filtrate is diluted to 125 ml. with water, and the resulting solution is dialyzed vs. water at 3500 Dalton cutoff. The retentate solution is evaporated in vacuo to give 0.600 g. purified acid form of the copolymer. Proton nmr (D2O) shows two broad regions at 1.0-2.8 (alkyl, 11 H) and 6.9-7.5 ppm. (aryl, 5 H). These data indicate a ratio of beta-styrenephosphonic acid to vinylphosphonic acid of 1:3 in the copolymer. Phosphorus nmr (D2O) shows two main phosphorus signals centered at about 23.4 and 29.2 ppm. respectively.

reactant | beta-styrenephosphonic acid | 0.058M | C(=CC1=CC=CC=C1)P(O)(=O)O | C8H9O3P
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | water | O | H2O
product | Beta-styrenephosphonic Acid Vinylphosphonic Acid | C(=CC1=CC=CC=C1)P(O)(=O)O.C(=C)P(O)(O)=O | InChI=1S/C8H9O3P.C2H5O3P/c9-12(10,11)7-6-8-4-2-1-3-5-8;1-2-6(3,4)5/h1-7H,(H2,9,10,11);2H,1H2,(H2,3,4,5)
